US07855309B2
To a mixture of 12.3 g (50 mmol) of 4-iodo-2,5-dimethylaniline and 83 ml (500 mmol) of triethoxymethane 0.48 g (2.50 mmol) of p-toluene sulfonic acid were added. The reaction mixture was refluxed for 16 hrs and concentrated in vacuo. The crude product was dissolved in 100 ml of dichloromethane and 5.91 g (100 mmol) N-methylethanamine were added. The reaction mixture was stirred for 16 hrs at 40° C. The reaction mixture was concentrated in vacuo. Column chromatographie (cyclohexane/ethyl acetate 3:1) yielded 13.4 g (42.3 mmol) 85% of N′-(4-iodo-2,5-dimethylphenyl)-N-ethyl-N-methylimidoformamide; log P (pH 2.3)=1.21.

reactant | 4-iodo-2,5-dimethylaniline | 50 mmol, 12.3 g | IC1=CC(=C(N)C=C1C)C | C8H10IN
reactant | triethoxymethane | 500 mmol, 83 ml, 0.48 g | C(C)OC(OCC)OCC | C7H16O3
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | N-methylethanamine | 100 mmol, 5.91 g | CNCC | C3H9N
solvent | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
product | N′-(4-iodo-2,5-dimethylphenyl)-N-ethyl-N-methylimidoformamide | 42.3 mmol, 13.4 g, 85% | IC1=CC(=C(C=C1C)N=CN(C)CC)C | C12H17IN2
